US05753657
To 0.8 g of 7-chloro-10-formamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one suspended in 25 ml of anhydrous dioxane at 10° C. are added 6.7 ml of 2M borane/dimethyl sulphide solution in tetrahydrofuran over approximately 1 hour. The reaction mixture is stirred for 15 hours at a temperature in the region of 20° C. and is then treated with 20 ml of methanol and left for an additional 1 hour at the same temperature. After concentration to dryness under reduced pressure (15 mmHg; 2 kPa), the residue obtained is purified by flash chromatography on a column of silica, using a mixture of dichloromethane and methanol (95/5 by volume) as eluent. The product obtained (0.43 g) dissolved in a mixture of ethanol and methanol (1/1 by volume) is acidified using hydrochloric ether to give 0.24 g of 7-chloro-10-methylamino-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride, in the form of a greenish-white powder the melting point of which is greater than 260° C. (Analysis C20H14ClN5O2 ·0.24 EtOH·0.15 H2O % calculated C: 44.53; H: 4.00; Cl: 28.16; N: 14.84; % found C: 44.5; H: 3.9; Cl: 28.1; N: 14.7).

reactant | 7-chloro-10-formamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.8 g | ClC=1C=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C1)NC=O | C14H9ClN4O2
reactant | borane dimethyl sulphide | 2M, 6.7 ml | B.CSC
reactant | hydrochloric ether | CCCl | C2H5Cl
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 7-chloro-10-methylamino-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.24 g | Cl.ClC=1C=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C1)NC | InChI=1S/C14H11ClN4O.ClH/c1-16-10-8-3-2-7(15)6-9(8)11-12(10)19-5-4-17-13(19)14(20)18-11;/h2-6,10,16H,1H3,(H,18,20);1H
